US04032527
Condensation of 2-(2,4-bis(dimethylamino)benzoyl)-benzoic acid and N,N-diethyl-m-toluidine in the presence of acetic anhydride also afforded 3-(2,4-bis(dimethylamino)-phenyl-3-(2-methyl-4-(diethylamino)phenyl)phthalide.

reactant | 2-(2,4-bis(dimethylamino)benzoyl)-benzoic acid | CN(C1=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=CC(=C1)N(C)C)C | C18H20N2O3
reactant | N,N-diethyl-m-toluidine | C(C)N(C1=CC(=CC=C1)C)CC | C11H17N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2,4-bis(dimethylamino)-phenyl-3-(2-methyl-4-(diethylamino)phenyl)phthalide | CN(C1=C(C=CC(=C1)N(C)C)C1(OC(=O)C2=CC=CC=C12)C1=C(C=C(C=C1)N(CC)CC)C)C | C29H35N3O2
